US07683056B2
(3R)-4-(phenylmethyl)-3-morpholinecarboxylic acid (D47)
Ethyl (3R)-4-(phenylmethyl)-3-morpholinecarboxylate (D46, 2.33 g, 9.36 mmol) was dissolved in a mixture of THF/EtOH/H2O (1:1:1 45 mL) before treating with Lithium Hydroxide monohydrate (0.432 g, 10.29 mmol) and heating at 50° C. overnight. Reaction not finished. Added more Lithium Hydroxide monohydrate (0.200 g, 4.76 mmol) and left heating for a further 24 hours. Added more Lithium Hydroxide (0.100 g, 2.38 mmol) and heated for a further 6 hours. Added more Lithium Hydroxide (0.100 g, 2.38 mmol) and heated for a further 16 hours. Cooled to R.T. Reaction neutralised using 2N HCl solution. Solvent evaporated. Residue partitioned between DCM and Water. Aqueous layer extracted with 10% MeOH/DCM ×5. Combined extracts dried (MgSO4). Filtered. Solvent evaporated under reduced pressure to afford the title compound as a white foam in a 94% yield.

reactant | Ethyl (3R)-4-(phenylmethyl)-3-morpholinecarboxylate | 9.36 mmol, 2.33 g | C1(=CC=CC=C1)CN1[C@H](COCC1)C(=O)OCC | C14H19NO3
reactant | Lithium Hydroxide monohydrate | 10.29 mmol, 0.432 g | O.[OH-].[Li+]
reactant | Lithium Hydroxide monohydrate | 4.76 mmol, 0.200 g | O.[OH-].[Li+]
reactant | Lithium Hydroxide | 2.38 mmol, 0.100 g | [OH-].[Li+]
reactant | Lithium Hydroxide | 2.38 mmol, 0.100 g | [OH-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | THF EtOH H2O | 45 mL | C1CCOC1.CCO.O
product | (3R)-4-(phenylmethyl)-3-morpholinecarboxylic acid | 94% yield | C1(=CC=CC=C1)CN1[C@H](COCC1)C(=O)O | C12H15NO3
